* MicroFJ-30020 (Onsemi J-Series) equivalent circuit: single fired microcell
* + lumped passive array, standard (anode) and fast outputs.
*
* Topology per datasheet Fig. 9 (MICROJ-SERIES/D rev.5): each microcell is an
* APD (Cd) from cathode rail to internal node, quench resistor Rq (parallel
* parasitic Cq) from node to anode rail, and a fast-output coupling cap Cf
* from node to the fast-output rail.
*
* Component values traceable to the datasheet (MicroFJ-30020, OV = 2.5 V):
*   gain 1.0e6 @ 2.5 V  -> (Cd+Cq) = G*e/OV       = 64 fF  (split 58.5+5.5)
*   anode capacitance   ~ N*(Cd+Cq) = 14410*64 fF = 0.92 nF (ds: 1040 pF) ok
*   fast capacitance      N*Cf = 50 pF            -> Cf = 3.47 fF
*   recharge tau 15 ns  -> Rq = 15n/(Cd+Cq)       ~ 235 kOhm
*   avalanche branch: switch + Rd in series with internal Vbr source; Rd sets
*   the sub-ns avalanche edge (ds anode rise ~130 ps).
*
* The fired cell discharges by exactly OV across Cd (self-terminating), i.e.
* avalanche charge = (Cd+Cq)*OV = G*e, then recharges through Rq.

.param OV=2.5
.param VBR=24.5
.param NCELL=14410
.param NPAS={NCELL-1}
.param CD=58.5f
.param CQ=5.5f
.param CF=3.47f
.param RQ=235k
.param RD=900
.param RLFAST=50
.param RLANODE=10

* cathode bias (AC ground)
VBIAS k 0 DC {VBR+OV}

* ---- fired microcell ----------------------------------------------------
CD1 k nf {CD}
S1  k  nav fire 0 SWMOD
RD1 nav nbr {RD}
VBR1 nbr nf DC {VBR}
RQ1 nf a {RQ}
CQ1 nf a {CQ}
CF1 nf f {CF}

* ---- remaining NPAS passive microcells, lumped ---------------------------
CDP k  np {NPAS*CD}
RQP np a {RQ/NPAS}
CQP np a {NPAS*CQ}
CFP np f {NPAS*CF}

* ---- output loads ---------------------------------------------------------
RLF f 0 {RLFAST}
RLA a 0 {RLANODE}

* avalanche trigger: switch closes at t=5ns for 2ns (discharge completes in
* ~Rd*(Cd+Cq) ~ 60 ps, so the exact open time is uncritical)
VFIRE fire 0 PULSE(0 1 5n 20p 20p 2n 1u)
.model SWMOD SW(RON=1u ROFF=1G VT=0.5 VH=0.1)

.options reltol=1e-4 abstol=1e-15 chgtol=1e-18

.control
* 350 ns: the loaded fast tail (tau ~ 24.5 ns) must decay to ~1e-6 of the
* lobe, or a kernel tabulated from this run carries a net-charge residual
* (truncation at 120 ns left +1.3% of the lobe unbalanced, which a pure-
* integrator observer downstream turns into volts of drift).
tran 2p 350n 0 10p
* load voltages; the python driver converts to currents via RLFAST/RLANODE
wrdata spice/fastout_tran.txt v(f) v(a)
quit
.endc
.end
